US07419984B2
To a stirred mixture of guanidine hydrochloride (1.91 g, 20.0 mmol) and diethyl methylmalonate (3.48 g, 20.0 mmol) in ethanol (30 ml) was added sodium methoxide (2.7 g, 50.0 mmol, 25% in methanol) dropwise. The cloudy mixture was stirred at 60-70° C. for 16 hours. After evaporation of volatiles under reduced pressure, the residue was treated with 1.0 M hydrochloric acid until pH=2. Filtration and drying provided 2-amino-4,6-dihydroxy-5-methyl-pyrimidine (2.5 g, 90% yield) as a white powder.

reactant | guanidine hydrochloride | 20.0 mmol, 1.91 g | Cl.NC(=N)N
reactant | diethyl methylmalonate | 20.0 mmol, 3.48 g | CC(C(=O)OCC)C(=O)OCC | C8H14O4
reactant | sodium methoxide | 50.0 mmol, 2.7 g | C[O-].[Na+]
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 2-amino-4,6-dihydroxy-5-methyl-pyrimidine | 2.5 g, 90% yield | NC1=NC(=C(C(=N1)O)C)O | C5H7N3O2
